US07476759B2
Benzyl (4-bromophenyl)acetate
4-Formylmorpholine (50 μL) was added to a stirred solution of 4-bromophenylacetic acid (5.00 g, 23.3 mmol) and oxalyl chloride (5.89 g, 4.05 mL, 46.6 mmol) in dichloromethane (30 mL) under nitrogen at room temperature. When gas evolution ceased the volatiles were evaporated and the residue was taken up in dichloromethane (30 mL). Benzyl alcohol (2.52 g, 2.41 mL, 23.3 mmol) was added in one portion and stirring was continued under nitrogen for 2 h. The volatiles were evaporated and the residue partitioned between dichloromethane (50 mL) and saturated sodium hydrogen carbonate solution (50 mL). The phases were separated and the aqueous phase was washed with dichloromethane (2×50 mL). The organic layers were combined, dried (magnesium sulfate) and the solvent evaporated. The residue was chromatographed on silica gel (20% diethyl ether: cyclohexane) to give the title compound as a white solid (6.76 g, 95%). LC/MS: 3.57 min; z/e 322 and 324, calcd (M+18) 322 and 324. 1H NMR (400 MHz: CDCl3): 7.45 (2H), 7.30 (5H), 7.15 (2H), 5.15 (2H), 3.60 (2H).

reactant | 4-Formylmorpholine | 50 μL | C(=O)N1CCOCC1 | C5H9NO2
reactant | 4-bromophenylacetic acid | 23.3 mmol, 5.00 g | BrC1=CC=C(C=C1)CC(=O)O | C8H7BrO2
reactant | oxalyl chloride | 46.6 mmol, 4.05 mL, 5.89 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | Benzyl alcohol | 23.3 mmol, 2.41 mL, 2.52 g | C(C1=CC=CC=C1)O | C7H8O
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | Benzyl (4-bromophenyl)acetate | 6.76 g, 95% | BrC1=CC=C(C=C1)CC(=O)OCC1=CC=CC=C1 | C15H13BrO2
